US06921753B2
N-({6-{[2,2-Bis(3-methylphenyl)ethyl]amino}-9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-9H-purin-2-yl}methyl)-N′-[2-(diisopropylamino)ethyl]urea
The title compound was prepared from (2R,3R,45,5R)-2-(2-(aminomethyl)-6-{[2,2-bis(3-methylphenyl)ethyl]amino}-9H-purin-9-yl)-5-(hydroxymethyl)tetrahydro-3,4-furandiol (Preparation 65) and N-[2-(diisopropylamino)ethyl]-1H-imidazole-1-carboxamide (Preparation 27) using a similar procedure to that used in Example 36.

reactant | (2R,3R,45,5R)-2-(2-(aminomethyl)-6-{[2,2-bis(3-methylphenyl)ethyl]amino}-9H-purin-9-yl)-5-(hydroxymethyl)tetrahydro-3,4-furandiol | NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)CO)NCC(C1=CC(=CC=C1)C)C1=CC(=CC=C1)C | C27H32N6O4
reactant | N-[2-(diisopropylamino)ethyl]-1H-imidazole-1-carboxamide | C(C)(C)N(CCNC(=O)N1C=NC=C1)C(C)C | C12H22N4O
product | N-({6-{[2,2-Bis(3-methylphenyl)ethyl]amino}-9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-9H-purin-2-yl}methyl)-N′-[2-(diisopropylamino)ethyl]urea | CC=1C=C(C=CC1)C(CNC1=C2N=CN(C2=NC(=N1)CNC(=O)NCCN(C(C)C)C(C)C)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)CO)C1=CC(=CC=C1)C | C36H50N8O5
